US05783574
2,3,3a,4-tetrahydro-2-(5-methyl-1H-imidazol-4-yl)methyl-1H-imidazo[5,1-c][1,4]benzoxazin-1-one hydrochloride.
To a solution of 2,3,3a,4-tetrahydro-2-(5-methyl-1H-imidazol-4-yl)methyl-1H-imidazo[5, 1-c] [1,4]benzoxazin-1-one (0.5 g; 0.00176 moles) in absolute ethanol (10 ml), an excess of a solution of hydrochloric acid is added. Diethyl ether is added, the precipitate is filtered to give 0.52 g of the title product as a white solid.

reactant | 2,3,3a,4-tetrahydro-2-(5-methyl-1H-imidazol-4-yl)methyl-1H-imidazo[5, 1-c] [1,4]benzoxazin-1-one | 0.00176 moles, 0.5 g | CC1=C(N=CN1)CN1C(N2C(COC3=C2C=CC=C3)C1)=O | C15H16N4O2
reactant | hydrochloric acid | Cl | ClH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,3,3a,4-tetrahydro-2-(5-methyl-1H-imidazol-4-yl)methyl-1H-imidazo[5,1-c][1,4]benzoxazin-1-one hydrochloride | 0.52 g | Cl.CC1=C(N=CN1)CN1C(N2C(COC3=C2C=CC=C3)C1)=O | InChI=1S/C15H16N4O2.ClH/c1-10-12(17-9-16-10)7-18-6-11-8-21-14-5-3-2-4-13(14)19(11)15(18)20;/h2-5,9,11H,6-8H2,1H3,(H,16,17);1H
